US09328111B2
Step 2: 9-benzyl-8,9,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridin-3(7H)-one
Example 18 was prepared from methyl 2-benzyl-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate and hydrazine hydrate according to the same procedures described as those in Example 15. 1H NMR (DMSO-d6) δ 8.37 (s, 1H), 7.21-7.56 (m, 8H), 3.81 (s, 2H), 3.39 (s, 2H), 2.91 (t, 2H, J=8.4 Hz), and 2.25 (t, 2H, J=8.4 Hz). MS (ESI) m/e [M+1]+ 331.0.

reactant | methyl 2-benzyl-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | C(C1=CC=CC=C1)N1CCC=2C(C3=C(NC2C1)C=CC=C3C(=O)OC)=O | C21H20N2O3
reactant | hydrazine hydrate | O.NN
product | 9-benzyl-8,9,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridin-3(7H)-one | C(C1=CC=CC=C1)N1CCC=2C=3C4=C(NC2C1)C=CC=C4C(NN3)=O | C20H18N4O
